US07795278B2
5,6,7,8-Tetrahydro-2H-isoquinolin-1-one (compound 5)
60 g (413 mmol) of 2H-isoquinolin-1-one (=isocarbostyril) are dissolved in 1 l of glacial acetic acid and, after addition of 2.3 g (10 mmol) of platinum(IV) oxide, hydrogenated under 3 bar at RT until conversion is complete. This entailed changing the catalyst after 3 days and a further 5 days. The suspension is filtered, concentrated and again concentrated after addition of toluene. The crude product is recrystallized from 1.6 l of water. Long needles are filtered off, and the mother liquor is concentrated and dried and separated on silica gel. 36.8 g (60%) of a colorless oil are obtained.

reactant | 2H-isoquinolin-1-one | 413 mmol, 60 g | C1(NC=CC2=CC=CC=C12)=O | C9H7NO
solvent | acetic acid | 1 l | C(C)(=O)O | C2H4O2
catalyst | platinum(IV) oxide | 10 mmol, 2.3 g | [Pt](=O)=O
product | 5,6,7,8-Tetrahydro-2H-isoquinolin-1-one | 36.8 g, 60% | C1(NC=CC=2CCCCC12)=O | C9H11NO
